US05389641
7h) 2-Butyl-1-[[4-[2-(1H-tetrazol-5-yl)-1-pyrrolyl]phenyl]methyl]benzimidazole-7-carboxylic acid
A solution of methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)-1-pyrrolyl]phenyl]methyl]benzimidazole-7-carboxylate (0.85 g) in methanol (10 ml) containing 1N aqueous NaOH (5.7 ml) was heated under reflux for 2 hours. After evaporation of methanol, the residue was neutralized with 1N aqueous hydrochloric acid to precipitate crystals. Recrystallization from chloroform-methanol afforded colorless prisms (0.71 g, 78%), m.p. 165°-167° C.

reactant | methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)-1-pyrrolyl]phenyl]methyl]benzimidazole-7-carboxylate | 0.85 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)N1C(=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC | C25H25N7O2
reactant | NaOH | 1N, 5.7 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-Butyl-1-[[4-[2-(1H-tetrazol-5-yl)-1-pyrrolyl]phenyl]methyl]benzimidazole-7-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)N1C(=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C24H23N7O2
